US07795267B2
Bis(1,1-dimethylethyl)2-[1-hydroxy-2-phenyl-1-(phenylmethyl)ethyl]-1,4-piperazinedicarboxylate
α,α-Bis(phenylmethyl)-2-piperazinemethanol (2.7 g, 9.1 mmol) was dissolved in tetrahydrofuran (100 mL) and a 0.5 M aqueous sodium hydrogen carbonate solution (100 mL) was added thereto. Di-tert-butyl dicarbonate (5.9 g, 27 mmol) was added dropwise at room temperature and the mixture was stirred one whole day and night. The reaction mixture was extracted with ethyl acetate, washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added diisopropyl ether, and the resulting crystals were collected by filtration and washed with diisopropyl ether to obtain the title compound (4.1 g, yield 90%).

reactant | α,α-Bis(phenylmethyl)-2-piperazinemethanol | 9.1 mmol, 2.7 g | C1(=CC=CC=C1)CC(O)(C1NCCNC1)CC1=CC=CC=C1 | C19H24N2O
reactant | sodium hydrogen carbonate | 0.5 M, 100 mL | C(O)([O-])=O.[Na+]
reactant | Di-tert-butyl dicarbonate | 27 mmol, 5.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Bis(1,1-dimethylethyl)2-[1-hydroxy-2-phenyl-1-(phenylmethyl)ethyl]-1,4-piperazinedicarboxylate | 4.1 g, yield 90% | CC(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(CC1=CC=CC=C1)(CC1=CC=CC=C1)O | C29H40N2O5
